US08486968B2
(c) 3-Amino-2,4-dichloro-benzamide
(1-Chloro-2-methyl-propenyl)-dimethyl-amine (16.1 mL, 116 mmol) is added to 3-amino-2,4-dichloro-benzoic acid (20.0 g, 97.1 mmol) in THF (320 mL). After 4 h at rt the mixture is added dropwise to conc. NH3 (320 mL) and stirred at rt overnight. The reaction mixture is concentrated, cooled and filtered. The filtercake is dried to give the sub-title compound.

reactant | (1-Chloro-2-methyl-propenyl)-dimethyl-amine | 116 mmol, 16.1 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-amino-2,4-dichloro-benzoic acid | 97.1 mmol, 20.0 g | NC=1C(=C(C(=O)O)C=CC1Cl)Cl | C7H5Cl2NO2
reactant | NH3 | 320 mL | N | H3N
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | 3-Amino-2,4-dichloro-benzamide | NC=1C(=C(C(=O)N)C=CC1Cl)Cl | C7H6Cl2N2O
